US04507498
A solution of 2.06 g (0.0034 mole) of 4-[4-acetyl-3-[3-[3(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-propylphenoxy]butanoic acid ethyl ester in 50 ml of methanol and 17 ml (0.017 mole) of 1.0N sodium hydroxide was stirred at reflux for 2 hours. Most of the solvent was removed and the pH of the residue was adjusted to 2.0 The product was extracted with methylene chloride. The extract was washed with water, dried (magnesium sulfate) and concentrated in vacuo to give 1.81 g (92% yield) of 4-[4-acetyl-3-[3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-propylphenoxy]butanoic acid as an oil.

reactant | 4-[4-acetyl-3-[3-[3(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-propylphenoxy]butanoic acid ethyl ester | 0.0034 mole, 2.06 g | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCCOCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C34H48O9
reactant | sodium hydroxide | 0.017 mole, 1.0N, 17 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-[4-acetyl-3-[3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]propoxy]-2-propylphenoxy]butanoic acid | 1.81 g, 92% yield | C(C)(=O)C1=C(C(=C(OCCCC(=O)O)C=C1)CCC)OCCCOCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C32H44O9
